US08633206B2
Step C: Preparation of ((3S)-1-((3-methyl-4-(methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)pyrrolidin-3-yl)methanol
A mixture of ((3S)-1-((3-methyl-4-(methyl(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)pyrrolidin-3-yl)methanol (0.050 g, 0.09 mmol), LiOH (0.009 g, 0.4 mmol), MeOH (1.5 mL), THF (1.5 mL), and H2O (1.0 mL) was stirred overnight. The mixture was then treated with 1 drop AcOH and the mixture concentrated. The resulting mixture was purified using reverse phase chromatography to afford the title compound. MS for C20H31N5O3S (ESI) (MH)+ m/z=422.

reactant | ((3S)-1-((3-methyl-4-(methyl(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)pyrrolidin-3-yl)methanol | 0.09 mmol, 0.050 g | CC1CC(CCC1N(C=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C)CS(=O)(=O)N2C[C@H](CC2)CO | C27H37N5O5S2
reactant | LiOH | 0.4 mmol, 0.009 g | [Li+].[OH-]
reactant | MeOH | 1.5 mL | CO | CH4O
reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
solvent | H2O | 1.0 mL | O | H2O
product | ((3S)-1-((3-methyl-4-(methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)pyrrolidin-3-yl)methanol | CC1CC(CCC1N(C=1C2=C(N=CN1)NC=C2)C)CS(=O)(=O)N2C[C@H](CC2)CO | C20H31N5O3S
